Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Compazine / Seroquel / Haldol / fentanyl
 
Attending: ___.
 
Chief Complaint:
Anemia, chest pain

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male hx. sickle disease c/b avascular necrosis of 
b/l hips, asplenia, opiate dependence, presenting with c/o 
fevers, cough, and chest pain x ~7 days. Patient initially seen 
by PCP ___ ___ in clinic for febrile illness. Encouraged to 
present to ED given asplenia, however patient refused. Given 
persistent fevers, cough and impending crisis/pain, patient 
presented to ___ today.

Patient presented to ___ where initial labs shows 
hematocrit 16.  He was given ceftriaxone, toradol, tylenol, and 
fluids.  As his heme care is here, he was transferred to ___.

In the ED, initial vitals:  99.2 58 102/46 18 97% RA.  Labs 
notable for WBC 10, H/H ___, plt 307.  chemistries normal, flu 
negative.  He was given 2L NS and ceftriaxone, azithromycin, 2mg 
IV dilaudid, zofran, benadryl.  Patient reportedly had 
significant desats in the ED requiring non-rebreather. Given hx 
of acute chest requireing intubation, conc

ern patient having acute chest sydrome requiring MICU 
admission.Of note, patient has had several recent 
hospitalization and ED visits for pain. Notably, the patient was 
recently admitted to ___ ___ for ? narctic 
overdose. Also, there are multiple recent clinic notes/pain 
clinic notes documenting increased narcotic use. However, this 
admission, patient with decreased Hgb, increased pain in 
comparison with recent admissions

 
Past Medical History:
Sickle Cell (born asplenic)  
Avascular Necrosis of b/l hips  
PAST SURGICAL HISTORY:  
Cord Decompressionb/l hip surgery  
Appendectomy  
Cholecystectomy  
Port A Cath placement x 4 given inability to achieve IV access  

 
Social History:
___
Family History:
Sickle cell disease.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals- 97.7, HR 58, 84/58, RR ___, Sats 97%RA. 
GENERAL: Alert, oriented, mild distress 
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  No rashes noted
NEURO:  A&Ox3. No gross deficits
 
DISCHARGE PHYSICAL EXAM:
VS: 97.6 115/65 53 16 97RA
GENERAL: Alert, oriented, uncooperative, irritable. 
HEENT: Oropharynx clear  
NECK: Supple, JVP not elevated, no LAD  
RESP: Clear to auscultation bilaterally. No crackles, wheezes, 
or rhonchi. 
CV: RRR, normal S1, S2. No murmurs.  
ABD: +BS, soft, nondistended, nontender to palpation.
GU: No foley  
EXT: Warm, well perfused, 2+ pulses, no edema.  
NEURO: CNs2-12 intact, motor function grossly normal.
SKIN: No excoriations or rash.

 
Pertinent Results:
ADMISSION:

___ 05:30PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 03:00PM URINE  HOURS-RANDOM CREAT-76 SODIUM-50 
POTASSIUM-18 CHLORIDE-75
___ 03:00PM URINE  OSMOLAL-321
___ 03:00PM   I-HOS-DONE
___ 03:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 05:10AM   GLUCOSE-105* UREA N-9 CREAT-0.7 SODIUM-138 
POTASSIUM-3.8 CHLORIDE-106 TOTAL CO2-24 ANION GAP-12
___ 05:10AM   ALT(SGPT)-32 AST(SGOT)-96* LD(LDH)-670* ALK 
PHOS-72 TOT BILI-1.5 DIR BILI-0.5* INDIR BIL-1.0
___ 05:10AM   CALCIUM-7.8* PHOSPHATE-2.7 MAGNESIUM-1.8
___ 05:10AM   HAPTOGLOB-<5*
___ 05:10AM   WBC-11.3* RBC-1.89* HGB-6.0* HCT-17.3* MCV-92 
MCH-31.8 MCHC-34.7 RDW-24.8*
___ 05:10AM   HYPOCHROM-2+ ANISOCYT-3+ POIKILOCY-3+ 
MACROCYT-2+ MICROCYT-1+ POLYCHROM-1+
___ 05:10AM   PLT COUNT-240
___ 05:10AM   RET MAN-13.9*
___ 01:01AM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 11:48PM   GLUCOSE-96 UREA N-13 CREAT-1.1 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-105 TOTAL CO2-25 ANION GAP-12
___ 11:48PM   estGFR-Using this
___ 11:48PM   LD(LDH)-724*
___ 11:48PM   WBC-10.5 RBC-1.69* HGB-5.5*# HCT-15.7*# 
MCV-93# MCH-32.6* MCHC-35.1* RDW-25.6*
___ 11:48PM   NEUTS-61 BANDS-1 ___ MONOS-8 EOS-3 
BASOS-0 ___ MYELOS-0 NUC RBCS-308*
___ 11:48PM   HYPOCHROM-2+ ANISOCYT-3+ POIKILOCY-3+ 
MACROCYT-OCCASIONAL MICROCYT-2+ POLYCHROM-2+ OVALOCYT-1+ 
TARGET-1+ SICKLE-2+ SCHISTOCY-OCCASIONAL TEARDROP-1+ 
ELLIPTOCY-OCCASIONAL
___ 11:48PM   PLT SMR-NORMAL PLT COUNT-307

DISCHARGE:

___ 02:51AM BLOOD WBC-7.4 RBC-2.59* Hgb-8.1* Hct-24.2* 
MCV-93 MCH-31.3 MCHC-33.6 RDW-22.9* Plt ___
___ 02:51AM BLOOD Neuts-57 Bands-0 ___ Monos-11 Eos-3 
Baso-0 ___ Myelos-0 NRBC-132*
___ 02:51AM BLOOD Hypochr-2+ Anisocy-2+ Poiklo-2+ 
Macrocy-2+ Microcy-1+ Polychr-OCCASIONAL Ovalocy-1+ 
Target-OCCASIONAL Sickle-OCCASIONAL Tear Dr-OCCASIONAL
___ 02:51AM BLOOD Ret Man-13.4*
___ 02:51AM BLOOD Glucose-91 UreaN-6 Creat-0.5 Na-136 K-3.9 
Cl-103 HCO3-25 AnGap-12
___ 02:51AM BLOOD LD(LDH)-625* TotBili-1.5
___ 02:51AM BLOOD Calcium-8.6 Phos-3.1 Mg-1.8

MICROBIOLOGY:

___ 5:30 pm Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

                            **FINAL REPORT ___

   Respiratory Viral Culture (Final ___: 
      No respiratory viruses isolated. 
      Culture screened for Adenovirus, Influenza A & B, 
Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus.. 
      Detection of viruses other than those listed above will 
only be
      performed on specific request. Please call Virology at 
___
      within 1 week if additional testing is needed. 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture and/or Influenza PCR 
(results
      listed under "OTHER" tab) for further information.. 

___ 3:00 pm SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 

___ 3:00 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 10:20 am BLOOD CULTURE      Source: Line-portacath. 

   Blood Culture, Routine (Pending): No growth to date

STUDIES:
EKG
Very low amplitude P waves. Sinus bradycardia with evidence of 
A-V Wenckebach
and junctional escape beats after the dropped P wave. Native QRS 
complex shows
early progression of R waves and there is diffuse T wave 
flattening that is
non-specific. Compared to tracing #1 P waves are of lower 
amplitude. Early
progression of R waves is now seen and A-V ___ with 
junctional escape is
now noted.

CXR:
Opacities at the right lung base and left perihilar region 
concerning for
pneumonia versus infarcts.

ECHO:
The left atrium is mildly dilated. The estimated right atrial 
pressure is ___ mmHg. Left ventricular wall thickness, cavity 
size, and global systolic function are normal (LVEF>55%). 
Regional left ventricular wall motion is normal. Tissue Doppler 
imaging suggests a normal left ventricular filling pressure 
(PCWP<12mmHg). Doppler parameters are most consistent with 
normal left ventricular diastolic function. There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. Trace 
aortic regurgitation is seen. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
no mitral valve prolapse. There is borderline pulmonary artery 
systolic hypertension. There is no pericardial effusion. 

IMPRESSION: Preserved regional/global biventricular systolic 
function. No pathologic valvular abnormalities. 

 
Brief Hospital Course:
___ year old male hx. sickle disease c/b avascular necrosis of 
b/l hips, asplenia, opiate dependence, presenting with c/o 
fevers, cough, and chest pain. Found to have an acute relative 
anemia.  

# SICKLE CELL CRISIS: The patient presented with a Hb 5.5 from a 
baseline of 7.7. Markers of hemolysis (LDH, TBili) trended up 
and haptoglobin was undetectable. Precipitant of crisis is 
secondary to pneumonia (see below). He received a total of 2 
units RBCs to a target of Hb >8. The patient was aggressively 
hydrated with IV fluids. He received oxygen supplementation 
despite SpO2 100%, to prevent acute chest. Pain was managed 
below.

# PAIN:  Pain management was difficult due to concern for opioid 
seeking behavior and a recent admission for possible opioid 
overdose. The patient's PCP has also been tapering oxycodone. 
Per patient and prior documentation, he did not have adequate 
pain management with long acting narcotics such as fentanyl 
patch, oxycontin, and MS contin. Trial of ketamin drip was 
unsuccessful due to nausea. The patient's pain was initially 
managed with standing tylenol and dilaudid 4mg Q2H standing. 
NSAIDs were avoided to prevent kidney damage. Per 
hematology/oncology, his pain was under controlled, as he had 
received up to dilaudid 12mg IV Q3H during previous admissions. 
The patient was started on dilaudid 8mg IV Q3H with a plan to 
taper daily (8mg Q3H, 4mg Q3H, 3mg Q3H, 2mg Q4H, 1.5mg Q4H, then 
1mg Q4H). The patient requested to leave mid-taper. He was 
discharged with a 4 day supply of oxycodone 30mg Q4H until 
follow up with his PCP.  

# BRADYCARDIA: Heart rate ranged from 40-50s. EKG showed 
variable AV block with slow junctional escape. The patient 
remained asymptomatic. Heart block can be rarely associated with 
sickle cell crises. The mechanism is thought to be local 
ischemia in the conduction system of the heart. 

# PNEUMONIA: The patient presented with fevers, cough and 
leukocytosis. CXR was concerning for RLL opacity. Respiratory 
viral cultures were negative. The patient was initially started 
on ceftriaxone and azithromycin. Azithromycin was discontinued 
due to prolonged QTc. Ceftriaxone was transitioned for 
cefpodoxime once able to tolerate PO. 

TRANSITIONAL ISSUES:
- Hematology/oncology suggest a pain medication schedule rather 
than using PRNs, The schedule should involve a ___ dose 
reduction daily.
- Obtain EKG prior to giving QTc prolonging agents. The 
patient's QTc prolonged with PVCs. 
- Hematology will work on developing a standing pain crisis plan 
that can be documented in OMR for future admissions.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
2. Exjade (deferasirox) ___ mg oral daily 
3. FoLIC Acid 5 mg PO DAILY 
4. Hydroxyurea 1500 mg PO DAILY 
5. OxycoDONE (Immediate Release)  30 mg PO Q4H:PRN pain 
6. Promethazine 25 mg PO Q6H:PRN nausea 
7. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1. Hydroxyurea 1500 mg PO DAILY 
2. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
3. Docusate Sodium 100 mg PO BID 
4. Exjade (deferasirox) ___ mg oral daily 
5. FoLIC Acid 5 mg PO DAILY 
6. OxycoDONE (Immediate Release)  30 mg PO Q4H:PRN pain 
RX *oxycodone 30 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*24 Tablet Refills:*0
7. Promethazine 25 mg PO Q6H:PRN nausea 
8. Cefpodoxime Proxetil 400 mg PO Q12H Duration: 2 Days 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth twice a day Disp #*8 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: pneumonia, sickle cell disease
Secondary: asplenia, opioid dependence

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your hospitalization 
to ___. You were admitted with pain and found to have 
pneumonia. You were treated with antibiotics and should complete 
2 additional days. You were given IV pain medications which were 
switched to oral medications when you were able to eat. You 
should follow up with your pain doctors after ___.

Wishing you the best,
Your ___ Care Team
 
Followup Instructions:
___